US07402585B2
N′-(5-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide (654 mg, 1.5 mmol) in acetic acid (1.35 ml) was heated with (3-amino-1H-pyrazol-5-yl)acetic acid (214 mg, 1.52 mmol) at reflux for 45 minutes. Acetic acid was evaporated and the residue taken up in a mixture of dichloromethane:methanol. Excess diisopropylethylamine was added, and the solvent evaporated in vacuo. Dichloromethane was added to the solid, which was filtered and dried to yield {3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid as a white powder (530 mg, 66% yield):

reactant | N′-(5-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide | 1.5 mmol, 654 mg | C(C)(C)(C)OCCN1CCC(CC1)CCOC=1C(=CC(=C(C1)N=CN(C)C)C#N)OC | C24H38N4O3
reactant | (3-amino-1H-pyrazol-5-yl)acetic acid | 1.52 mmol, 214 mg | NC1=NNC(=C1)CC(=O)O | C5H7N3O2
solvent | acetic acid | 1.35 ml | C(C)(=O)O | C2H4O2
product | {3-[(7-{2-[1-(2-tert-butoxyethyl)piperidin-4-yl]ethoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid | 530 mg, 66% yield | C(C)(C)(C)OCCN1CCC(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)O)OC | C27H38N6O5
